US06162811
1-[(2-Dimethylaminoethyl)aminocarbonyl]-5,6-dimethyl-9-tetradecanoyloxy-6H-pyrido-[4,3-b]carbazole
2 g of 1-[(2-dimethylaminoethyl)aminocarbonyl]-5,6-dimethyl-9-hydroxy-6H-pyrido[4,3-b]-carbazole are dissolved in 60 ml of pyridine. The mixture is cooled to 5° C. and then 4.67 g of myristic anhydride are introduced over a period of 3 minutes. The mixture is stirred at 5° C. for 2 hours and then at room temperature for 16 hours, and concentrated to dryness at a temperature of less than 40° C. The residue is chromatographed on 150 g of silica using a mixture of dichloromethane and methanol as eluant. 2.4 g of the desired product are obtained, m.p.(K): 98° C.

reactant | 1-[(2-dimethylaminoethyl)aminocarbonyl]-5,6-dimethyl-9-hydroxy-6H-pyrido[4,3-b]-carbazole | 2 g | CN(CCNC(=O)C1=NC=CC2=C(C=3N(C=4C=CC(=CC4C3C=C21)O)C)C)C | C22H24N4O2
reactant | myristic anhydride | 4.67 g | C(CCCCCCCCCCCCC)(=O)OC(CCCCCCCCCCCCC)=O | C28H54O3
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | 1-[(2-Dimethylaminoethyl)aminocarbonyl]-5,6-dimethyl-9-tetradecanoyloxy-6H-pyrido-[4,3-b]carbazole | 2.4 g | CN(CCNC(=O)C1=NC=CC2=C(C=3N(C=4C=CC(=CC4C3C=C21)OC(CCCCCCCCCCCCC)=O)C)C)C | C36H50N4O3
